US04731373
A solution of 0.57 g of (R)-2-O-(methyl-carbamoyl)-1-O-octadecyl-3-O-tritylglycerine in 15 ml of dichloromethane is treated with 0.5 ml of trifluoroacetic acid. The solution is washed with water and with sodium bicarbonate, dried and evaporated. The residue is recrystallized from dichloromethane-n-hexane. There is obtained (S)-2-O-(methylcarbamoyl)-1-O-octadecylglycerine of melting point 68°-69° C.

reactant | (R)-2-O-(methyl-carbamoyl)-1-O-octadecyl-3-O-tritylglycerine | 0.57 g | CNC(=O)O[C@H](COCCCCCCCCCCCCCCCCCC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H61NO4
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (S)-2-O-(methylcarbamoyl)-1-O-octadecylglycerine | CNC(=O)O[C@H](COCCCCCCCCCCCCCCCCCC)CO | C23H47NO4
